US04597902
1-Methyl-N-[2-(1-naphthalenesulfinyl)ethyl]ethanamine, hydrochloride
A solution of 12.0 g (0.043 mole) of 1-methyl-N-[2-(1-naphthalenylthio)ethyl]ethanamine hydrochloride and 19.7 g (0.028 mole) of sodium perborate tetrahydrate in 500 ml of 2N sulfuric acid was stirred overnight at room temperature. The solution was poured over ice and the mixture was made alkaline with 50% sodium hydroxide and then extracted with chloroform. The chloroform layer was evaporated to give a dark-brown oil, the free base of the title compound, which crystallized at room temperature. A one gram sample was reacted with ethereal hydrogen chloride and recrystallized from methanol-diethyl ether to give 0.72 g (9.1%) of white solid, m.p. 153°-155° C.

reactant | 1-methyl-N-[2-(1-naphthalenylthio)ethyl]ethanamine hydrochloride | 0.043 mole, 12.0 g | Cl.CC(C)NCCSC1=CC=CC2=CC=CC=C12
reactant | sodium perborate tetrahydrate | 0.028 mole, 19.7 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 2N, 500 ml | S(O)(O)(=O)=O | H2O4S
product | 1-Methyl-N-[2-(1-naphthalenesulfinyl)ethyl]ethanamine, hydrochloride | 0.72 g, 9.1% | Cl.CC(C)NCCS(=O)C1=CC=CC2=CC=CC=C12 | InChI=1S/C15H19NOS.ClH/c1-12(2)16-10-11-18(17)15-9-5-7-13-6-3-4-8-14(13)15;/h3-9,12,16H,10-11H2,1-2H3;1H
